US08558002B2
Preparation of Dimethyl 5,5′-[N-({6-amino-5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate
To the degassed mixture of dimethyl 5,5′-{N-[(6-amino-5-iodopridin-3-yl)carbonyl]sulfonimidoyl}dipentanoate (1.16 g, 2.15 mmol, 1.0 equiv.), 3-ethynylaniline (0.34 mL, 3.25 mmol, 1.5 equiv.), and triethylamine (1.2 mL, 8.61 mmol, 4.0 equiv.) in anhydrous DMF (7 mL) under nitrogen atmosphere was added CuI (81.5 mg, 0.42 mmol, 0.2 equiv.) and PdCl2(Ph3P)2 (150.6 mg, 0.21 mmol, 0.1 equiv.). The reaction mixture was stirred at room temperature for 15 minutes. The reaction was then diluted with EtOAc, washed with sat. aq. NaHCO3, aq. NH4Cl, and brine, and lastly dried with anhydrous Na2SO4. The solution was decanted, concentrated, and the oily residue was subject to a gradient column chromatography (from EtOAc-Hex 1:3 to neat EtOAc) to give the title compound as a white foam (1.0 g).

reactant | dimethyl 5,5′-{N-[(6-amino-5-iodopridin-3-yl)carbonyl]sulfonimidoyl}dipentanoate | 2.15 mmol, 1.16 g, 1.0 equiv. | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)I | C18H26IN3O6S
reactant | 3-ethynylaniline | 3.25 mmol, 0.34 mL, 1.5 equiv. | C(#C)C=1C=C(N)C=CC1 | C8H7N
reactant | triethylamine | 8.61 mmol, 1.2 mL, 4.0 equiv. | C(C)N(CC)CC | C6H15N
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.42 mmol, 81.5 mg, 0.2 equiv. | [Cu]I
product | Dimethyl 5,5′-[N-({6-amino-5-[(3-aminophenyl)ethynyl]pyridin-3-yl}carbonyl)sulfonimidoyl]dipentanoate | 1.0 g | NC1=C(C=C(C=N1)C(=O)N=S(=O)(CCCCC(=O)OC)CCCCC(=O)OC)C#CC1=CC(=CC=C1)N | C26H32N4O6S
